2122-04-01 09:50:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PHERESIS CATHETER - START [**2122-4-1**] 01:10 AM
 NON-INVASIVE VENTILATION - START [**2122-4-1**] 02:00 AM
   NIF=-30 and BIPAP utilized across the night with good patient tolerance
   7.48/44/145 noted as ABG at admission
   Methylprednisolone started
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-1**] 08:52 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-1**] 08:52 AM
   Hydralazine - [**2122-4-1**] 08:53 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2122-4-1**] 09:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.9
C (98.4
   HR: 100 (85 - 100) bpm
   BP: 175/82(103) {148/71(93) - 183/95(113)} mmHg
   RR: 22 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
             534 mL
   PO:
             TF:
   IVF:
   534 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    325 mL
   Urine:
   325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    209 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 682 (682 - 751) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 7 cmH2O
   SpO2: 98%
   ABG: 7.48/42/76.[**Numeric Identifier 126**]/32/6
   Ve: 16.2 L/min
   PaO2 / FiO2: 190
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, Motor--decreased motor strength in UE and LE worse
   proximally
   Labs / Radiology
   11.7 g/dL
   161 K/uL
   143 mg/dL
   0.7 mg/dL
   32 mEq/L
   3.9 mEq/L
   10 mg/dL
   92 mEq/L
   133 mEq/L
   35.0 %
   9.3 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
   WBC
   9.3
   Hct
   35.0
   Plt
   161
   Cr
   0.7
   TCO2
   32
   Glucose
   143
   Other labs: PT / PTT / INR:14.2/28.8/1.2, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.9 mmol/L, Ca++:8.9
   mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Imaging: CXR--Full mediatinum with prominent hilar area on right
   Assessment and Plan
   65 yo female with history of MG and now following admission for
   endovascular repair of AAA has had progressive weakness of peripheal
   musculature and had NIF=-40 and VC=1 liter.  Given progression patient
   had plasmapheresis started and despite that she had continued trend
   down in terms of motor strength.  In this setting she has been
   supported with NIV across the night.  This was with minimal levels of
   support and patient tolerance was quite good.  The issue going forward
   is duration of impairment in ventilatory compromise.
   1)Respiratory Failure--Certainly patient able to have ventilation
   supported by PSV delivered non-invasively.  The issue will be in the
   setting of impaired bulbar function patient does retain some
   significant risk of ongoing aspiration and progression to pneumonia.
   We do not, unfortunately, have an expectation for a rapid improvement
   in strength despite Rx in place.  NM weakness is clearly driving
   ventilatory failure this am.
   Pyridostigmine
will have to clarify role in the setting of
   plasmapheresis but favor D/C
   Methylprednisolone
   Plasmapheresis
   Will need intubation for safe management of airway and support of
   ventilation given the patients examination this morning with
   tachycardia, hypertension and overall fatigue and weakness.  Will move
   to intubation today
was discussed in full with patient and family this
   morning and she is in full agreement
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   secondary to Myasthenia [**Last Name (un) **] flare
   -NPO
   -Will place NGT
   ICU Care
   Nutrition: NPO and will move to NGT feeds
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-4-1**] 01:07 AM
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2122-04-02 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-4-1**] 10:30 AM
 NASAL SWAB - At [**2122-4-1**] 01:00 PM
   admission MRSA swab
   - Intubated due to increased work of breathing
   - Neuro recs: [**Month (only) **] mestinon to 60mg TID & methylpred to 80mg daily,
   limit use of meds that aggravate MG, plasmapheresis next on [**4-2**]
   - ETT advanced
   - 1L NS bolus for low urine output (8-12 cc/hr x 5 hours); 0420 gave
   500 cc NS bolus for low urine output and elevated creatinine & BUN
   - NIF -11 at ~8pm; -17 at 6 am
   - at night increased PS to 10 because looking tired; then switched to
   MMV d/t apnea
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-1**] 08:52 AM
   Hydralazine - [**2122-4-1**] 08:53 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-1**] 09:59 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-2**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 103 (71 - 119) bpm
   BP: 162/70(92) {87/41(53) - 176/95(113)} mmHg
   RR: 21 (9 - 28) insp/min
   SpO2: 98%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,404 mL
                                                                    724 mL
   PO:
             TF:
   IVF:
                                                                  2,234 mL
                                                                    694 mL
   Blood products:
   Total out:
                                                                    571 mL
                                                                    108 mL
   Urine:
                                                                    571 mL
                                                                    108 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    616 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (347 - 682) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.36/56/78.[**Numeric Identifier 181**]/32/3
   NIF: -17 cmH2O
   Ve: 6.8 L/min
   PaO2 / FiO2: 197
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Labs / Radiology
   188 K/uL
   10.2 g/dL
   109 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   17 mg/dL
   97 mEq/L
   135 mEq/L
   30.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
   WBC
   9.3
   9.9
   Hct
   35.0
   30.7
   Plt
   161
   188
   Cr
   0.7
   1.0
   TCO2
   32
   33
   Glucose
   143
   109
   Other labs: PT / PTT / INR:13.0/29.4/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for a AAA repair, now with worsening
   myasthenia flair requiring intubation.
   1. Myasthenia flair. Likely related to post-operative state.  Currently
   no signs of infection.  Currently intubated secondary to weakness.
   Decreasing mestinon dose will likely help to decrease patient
   diarrhea.
   - Neurology recs: cont pheresis, decr mestinon, decr methylpred
   - Follow daily VC/NIF
 which is improving
   - Will consider extubation in the afternoon of NIFs continue to improve
   .
   2. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Hold digoxin and level is high (dig level this AM 2.1)
   - Verapamil unable while patient npo
 can
t crush
   .
   3. Electrolyte abnormalities. Met alk and hypernatremia improved.
   - Cont to bolus IVF as needed for likely dehydration
   .
   4. Anemia. Stable.
   .
   5. AAA repair. Successful repair. Vascular surgery following.
   .
   6. Hypertension. Improving.
   - Cont IV hydral
   .
   FEN: Gentle IVF overnight while NPO, Surgery recommends TF if patient
   not extubated
   PPX: SC heparin, PPI
   FULL CODE (discussed with patient and husband at the time of MICU
   transfer)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-4-1**] 01:07 AM
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-02 11:20:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2122-4-1**] 10:30 AM
 NASAL SWAB - At [**2122-4-1**] 01:00 PM
   admission MRSA swab
   Patient with NIF=-28--improved from 11 yesterday
   MMV utilized across last night
   Suctioned q3 hours for moderate volume of secretions.
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-2**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-2**] 11:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.7
C (98.1
   HR: 86 (71 - 119) bpm
   BP: 130/58(75) {87/41(53) - 162/84(98)} mmHg
   RR: 15 (9 - 25) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,404 mL
                                                                    878 mL
   PO:
             TF:
   IVF:
                                                                  2,234 mL
                                                                    788 mL
   Blood products:
   Total out:
                                                                    571 mL
                                                                    248 mL
   Urine:
                                                                    571 mL
                                                                    248 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,833 mL
                                                                    630 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 500 (347 - 615) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 15
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 96%
   ABG: 7.36/56/78.[**Numeric Identifier 181**]/32/3
   NIF: -27 cmH2O
   Ve: 6.1 L/min
   PaO2 / FiO2: 197
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
improved motor strength on exam
patient clearly altert and
   interactive
   Labs / Radiology
   10.2 g/dL
   188 K/uL
   109 mg/dL
   1.0 mg/dL
   32 mEq/L
   4.3 mEq/L
   17 mg/dL
   97 mEq/L
   135 mEq/L
   30.7 %
   9.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
   WBC
   9.3
   9.9
   Hct
   35.0
   30.7
   Plt
   161
   188
   Cr
   0.7
   1.0
   TCO2
   32
   33
   Glucose
   143
   109
   Other labs: PT / PTT / INR:13.0/29.4/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Ca++:9.0
   mg/dL, Mg++:1.8 mg/dL, PO4:3.7 mg/dL
   Fluid analysis / Other labs: 7.36/56/79
   Imaging: CXR
   Assessment and Plan
   65 yo female with myasthenia [**Last Name (un) **] and now s/p intubation for
   significant respiratory compromise with progressive weakness.  She has
   had adjustments in MG management with decrease in mestanon dosing and
   has had plasmapheresis today.  She has shown a good trend to improved
   motor strength across the past 24 hours and has extubation limited in
   part by increased secretion volumes.
   1)Respiratory Failure-Secondary to weakness but with some significant
   secretions this morning.  She has shown a trend to improvement in NIF
   across time.
   -SBT following pheresis
   -Suction as needed
   -Mental status excellent
   -Move to extubate this pm
   -Reasonable to work to BIPAP-[**10-12**] support overnight
   2)Myasthenia [**Last Name (un) 249**]-
   -Plasamapheresis
   -Continued medications as driven by neurology support in consultation
   3)Congestive Heart Failure/Atrial Fibrillation-
   -Digoxin level elevated-_ECG this am
   -Hold digoxin
   -Continue with Ca++ blocker as Dilt if needed as Verapamil unable to be
   given
   Additional issues to be addressed as defined in the housestaff note of
   this date.
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   secondary to Myasthenia [**Last Name (un) **] flare
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-4-1**] 01:07 AM
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Plan discussed in detail with pt and husband
   during [**Name2 (NI) 2585**] today
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2122-04-03 07:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-4-2**] 02:00 PM
   - Extubated. Got plasmapheresis.
   - Neuro recs: Continue plasmapheresis, mestinon and prednisone. Follow
   VC and NIF Q4-6 hrs.
   8pm NIF: -40
   - Vascular recs: Place dobhoff and initiate TF (not done, as pt
   extubated now)
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-2**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-2**] 09:56 PM
   Hydralazine - [**2122-4-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-3**] 07:18 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 78 (75 - 101) bpm
   BP: 173/69(97) {130/49(48) - 176/112(117)} mmHg
   RR: 20 (14 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,316 mL
                                                                     73 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                  1,086 mL
                                                                     73 mL
   Blood products:
   Total out:
                                                                    688 mL
                                                                    180 mL
   Urine:
                                                                    688 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,628 mL
                                                                   -107 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 374 (374 - 374) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 11 cmH2O
   SpO2: 92%
   ABG: ///34/
   NIF: -40 cmH2O
   Ve: 7.7 L/min
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Labs / Radiology
   190 K/uL
   9.6 g/dL
   82 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.7 mEq/L
   17 mg/dL
   95 mEq/L
   133 mEq/L
   28.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
   WBC
   9.3
   9.9
   10.9
   Hct
   35.0
   30.7
   28.8
   Plt
   161
   188
   190
   Cr
   0.7
   1.0
   0.8
   TCO2
   32
   33
   Glucose
   143
   109
   82
   Other labs: PT / PTT / INR:14.0/44.9/1.2, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Micro
   Urinalysis: 50 RBCs, >1000 WBCs, Mod Bacteria, Large Leuks
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation.
   #. Myasthenia flare. Likely related to post-operative state. Extubated
   [**4-2**]. NIF -40 (improved). Trial CPAP overnight but patient only
   tolerated x5hours. Decreasing mestinon dose will likely help to
   decrease patient
s diarrhea.
   - Neurology recs: Repeat plasmapheresis today. F/U further recs for
   mestinon/steroid dose.
   - Follow daily VC/NIF
 which is improving
   - Continue to encourage CPAP/BIPAP with sleep
   - OOB w/ assist.
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Dig held yesterday w/ elevated level. Repeat level 1.6 this AM.
   Restart Dig at half-dose.
   - Restarted Verapamil this AM.
   .
   #. UTI
 U/A indicative of infection. Cultures pending.
   - Ceftriaxone for [**3-12**] day course per neuro (cipro can worsen MG)
   - F/U Urine culture
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Stable.
   .
   #. AAA repair. Successful repair. Vascular surgery following. F/U Recs.
   .
   #. Hypertension. Improving.
   - Restarted verapamil today. Hydral prn. Holding metoprolol during MG
   flare.
   .
   FEN: Regular diet.
   PPX: SC heparin, PPI
   FULL CODE (discussed with patient and husband at the time of MICU
   transfer)
   DISPO: To neuro service today pending clinical improvement.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-4-1**] 01:07 AM
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6299**], MSIV
   I have examined the patient and agree with the plan.
   [**First Name4 (NamePattern1) 1914**] [**Last Name (NamePattern1) 6572**], MD  PGY-1

2122-04-03 11:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Myasthenia [**Last Name (un) 249**]
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-4-2**] 02:00 PM
   -Pt with exubation without event
   History obtained from Patient
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-2**] 09:56 PM
   Hydralazine - [**2122-4-3**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Tachypnea, transient
   Flowsheet Data as of  [**2122-4-3**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 90 (75 - 101) bpm
   BP: 125/53(69) {125/49(48) - 183/112(117)} mmHg
   RR: 19 (9 - 22) insp/min
   SpO2: 92%
   Heart rhythm: SVT (Supra Ventricular Tachycardia)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,316 mL
                                                                    109 mL
   PO:
                                                                  1,140 mL
             TF:
   IVF:
                                                                  1,086 mL
                                                                    109 mL
   Blood products:
   Total out:
                                                                    688 mL
                                                                    180 mL
   Urine:
                                                                    688 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,628 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 374 (374 - 374) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 0%
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: ///34/
   NIF: -40 cmH2O
   Ve: 7.7 L/min
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   190 K/uL
   82 mg/dL
   0.8 mg/dL
   34 mEq/L
   3.7 mEq/L
   17 mg/dL
   95 mEq/L
   133 mEq/L
   28.8 %
   10.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
   WBC
   9.3
   9.9
   10.9
   Hct
   35.0
   30.7
   28.8
   Plt
   161
   188
   190
   Cr
   0.7
   1.0
   0.8
   TCO2
   32
   33
   Glucose
   143
   109
   82
   Other labs: PT / PTT / INR:14.0/44.9/1.2, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   65 yo female with h/o MG and now with worsening weakness had need for
   intubation tansiently in the setting of increased secretions.   She has
   had good tolerance of extubation and continued improvement in NIF.   We
   will need to move to advance cause of improvement with mobilization and
   continued increase in po intake and activity.
   1)Respiratory Failure-
   -Improved NIF to -40
   -Continue to get patient out of bed and work
   -Continue incentive spirometry
   2)Myasthenia [**Last Name (un) 249**]-
   -Pheresis completed
   -Continue with med dosing per neurology
   -Expect to follow on medical floor going forward
   3)Cardiac-
   HTN-
   -Will continue with Verapamil and Hydral with goal to keep BP stable
   given AAA history
   4) URINARY TRACT INFECTION (UTI)
   -CTX to continue given minimal impact on MG
   ICU Care
   Nutrition: po diet
   Glycemic Control:
   Lines:
   18 Gauge - [**2122-4-1**] 01:07 AM
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   CVL
oK to D/C with p-IV
s in place
   Prophylaxis:
   DVT: SQ Heparin
   Stress ulcer: po diet
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to Floor
   Total time spent: 40

2122-04-04 07:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro recs: check q2 NIF and VC, re-intubate if NIF <25, VC <500
   - CPAP started at 1500
   - NIF checked at 2345 -25, VC 400, ABG PCO2 59 -> 66, reintubated for
   fatigue
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-3**] 11:50 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Hydralazine - [**2122-4-3**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-4**] 07:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.1
C (96.9
   HR: 70 (69 - 99) bpm
   BP: 126/76(88) {105/33(53) - 200/88(117)} mmHg
   RR: 18 (7 - 26) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,591 mL
                                                                    178 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,181 mL
                                                                    178 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                     50 mL
   Urine:
                                                                    580 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 715 (520 - 715) mL
   PS : 6 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.35/64/106/32/7
   NIF: -25 cmH2O
   Ve: 7.3 L/min
   PaO2 / FiO2: 212
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Labs / Radiology
   197 K/uL
   9.9 g/dL
   112 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   14 mg/dL
   97 mEq/L
   137 mEq/L
   29.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
   WBC
   9.3
   9.9
   10.9
   9.9
   Hct
   35.0
   30.7
   28.8
   29.5
   Plt
   161
   188
   190
   197
   Cr
   0.7
   1.0
   0.8
   0.8
   TCO2
   32
   33
   35
   38
   37
   Glucose
   143
   109
   82
   112
   Other labs: PT / PTT / INR:12.9/32.8/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation.
   #. Myasthenia flare. Likely related to post-operative state. Extubated
   [**4-2**]. NIF -25 and increasing PCO2 requiring reintubation. Decreasing
   mestinon dose will likely help to decrease patient
s diarrhea.
   - Cont ventilator support until strength improves, wean as tolerated
   - Neurology recs: Cont plasmapheresis per Neuro. F/U further recs for
   mestinon/steroid dose.
   - Follow [**Hospital1 7**] VC/NIF and SBTs
   - OOB w/ assist.
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Cont Dig at half-dose. F/u dig levels.
   - Hold Verapamil
 can
t crush and put in NGT, will restart standing
   hydralazine while intubated
   .
   #. UTI
 U/A indicative of infection. Cultures pending.
   - Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can worsen
   MG)
   - F/U Urine culture
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Stable.
   .
   #. AAA repair. Successful repair. Vascular surgery following. F/U Recs.
   .
   #. Hypertension. Improving.
   - Restarted verapamil. Hydral prn. Holding metoprolol during MG flare.
   .
   FEN: TF while intubated
   PPX: SC heparin, PPI (change to lansoprazole while intubated)
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-04 09:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   q2h NIF and vital capacities
   NIF down to -25 cm
   Failed CPAP, intubated 1am for fatigue
   This AM 7.35/64/106
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-3**] 11:50 AM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-4**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-4**] 09:30 AM
   Other medications: reviewed
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-4**] 09:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.7
C (98.1
   HR: 70 (69 - 99) bpm
   BP: 145/67(86) {105/33(53) - 200/88(117)} mmHg
   RR: 18 (7 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 78.6 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,591 mL
                                                                    343 mL
   PO:
                                                                    410 mL
             TF:
   IVF:
                                                                  1,181 mL
                                                                    253 mL
   Blood products:
   Total out:
                                                                    580 mL
                                                                     80 mL
   Urine:
                                                                    580 mL
                                                                     80 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,011 mL
                                                                    263 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 715 (520 - 715) mL
   PS : 6 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.35/64/106/32/7
   NIF: -25 cmH2O
   Ve: 9.2 L/min
   PaO2 / FiO2: 212
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , No(t) Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Absent, Left: Absent
   Skin:  warm
   Neurologic: intubated, sedated, but easily arousable, opens eyes to
   verbal command
   Labs / Radiology
   9.9 g/dL
   197 K/uL
   112 mg/dL
   0.8 mg/dL
   32 mEq/L
   3.9 mEq/L
   14 mg/dL
   97 mEq/L
   137 mEq/L
   29.5 %
   9.9 K/uL
        [image002.jpg]
                             [**2122-4-1**]  05:36 AM
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
   WBC
   9.3
   9.9
   10.9
   9.9
   Hct
   35.0
   30.7
   28.8
   29.5
   Plt
   161
   188
   190
   197
   Cr
   0.7
   1.0
   0.8
   0.8
   TCO2
   32
   33
   35
   38
   37
   Glucose
   143
   109
   82
   112
   Other labs: PT / PTT / INR:12.9/32.8/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.4 mmol/L, Ca++:8.3
   mg/dL, Mg++:1.6 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 URINARY TRACT INFECTION (UTI)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 AIRWAY, INABILITY TO PROTECT (RISK FOR ASPIRATION, ALTERED GAG,
   AIRWAY CLEARANCE, COUGH)
   secondary to Myasthenia [**Last Name (un) **] flare
 ALTERATION IN ELIMINATION RELATED TO DIARRHEA
 HYPONATREMIA (LOW SODIUM, HYPOSMOLALITY)
   65 yo female with h/o MG s/p AAA repair and now with worsening weakness
   had need for intubation transiently in the setting of increased
   secretions, now reintubated for fatigue/hypercapnia.  NIFs varied and
   were decreased overnight in setting of sleep/Zolpidem.
   1)Respiratory Failure-
   - keep intubated for now
   - daily SBTs
   - Daily NIFs
   2)Myasthenia [**Last Name (un) 249**]-
   -Pheresis to continue next week
   -Continue with med dosing per neurology
 on mestinon
   3)Cardiac-
   - HTN, will continue with Verapamil and hydralazine with goal to keep
   BP stable given AAA history
   4) URINARY TRACT INFECTION (UTI)
   -CTX day 2 to continue given minimal impact on MG
   - f/u urine cx
   ICU Care
   Nutrition: restart tube feeds
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 38 minutes
   Patient is critically ill

2122-04-05 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hydral restarted for BP control while intubated
   - Tube feeds restarted
   - attempted to self-extubate
   - Hct drop this morning, T&S sent
   - Too sedated to check NIF
   ** NIF this AM: -8 to -16.
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-4**] 01:20 PM
   Infusions:
   Fentanyl - 150 mcg/hour
   Midazolam (Versed) - 6 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2122-4-4**] 09:30 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-4**] 10:12 PM
   Hydralazine - [**2122-4-5**] 06:04 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-5**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.5
   HR: 66 (58 - 79) bpm
   BP: 146/82(98) {113/55(72) - 163/82(99)} mmHg
   RR: 16 (14 - 18) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.9 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,080 mL
                                                                    983 mL
   PO:
             TF:
                                                                    114 mL
                                                                    214 mL
   IVF:
                                                                    775 mL
                                                                    720 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    185 mL
   Urine:
                                                                    490 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    799 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 24 cmH2O
   Plateau: 15 cmH2O
   SpO2: 97%
   ABG: 7.43/54/169/34/10
   Ve: 9 L/min
   PaO2 / FiO2: 338
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Labs / Radiology
   162 K/uL
   8.9 g/dL
   100 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.0 mEq/L
   16 mg/dL
   98 mEq/L
   136 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
                             [**2122-4-5**]  01:10 AM
                             [**2122-4-5**]  03:32 AM
   WBC
   9.9
   10.9
   9.9
   6.1
   Hct
   30.7
   28.8
   29.5
   25.8
   Plt
   188
   190
   197
   162
   Cr
   1.0
   0.8
   0.8
   0.7
   TCO2
   32
   33
   35
   38
   37
   37
   Glucose
   109
   82
   112
   100
   Other labs: PT / PTT / INR:12.9/32.8/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort. Requiring high amounts of sedation to keep
   patient calm (otherwise pt starts pulling on the tubes,etc) but can
   become too sedated for NIF checks.
   - Cont ventilator support until strength improves, wean as tolerated
   - Neurology recs: Cont plasmapheresis per Neuro. F/U further recs for
   mestinon/steroid dose.
   - Follow Q2h VC/NIF and [**Name (NI) 6611**]
   - PT consult tomorrow for OOB with assist, and strengthening exercises
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Cont Dig at half-dose. Dig level 1.5 this AM (within therapeutic
   range)
   - Hold Verapamil while intubated
 can
t crush and put in NGT
   .
   #. Hypertension.
   - Hydral was started yesterday
 will titrate up as needed.
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures pending.
   - Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can worsen
   MG); to be completed today.
   - F/U Urine culture
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Had a 4-point Hct drop this AM. Will recheck this afternoon.
   No obvious signs of GIB but not stooling at this time. Will check
   guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following. F/U Recs.
   .
   FEN: TF while intubated
   PPX: SC heparin, PPI (change to lansoprazole while intubated)
   COMM: with husband and daughter
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2122-4-4**] 03:29 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-05 12:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   65 yo female with h/o MG s/p AAA repair and now with worsening weakness
   had need for intubation transiently in the setting of increased
   secretions, now reintubated for fatigue/hypercapnia.  NIFs varied and
   were decreased overnight in setting of sleep/Zolpidem.
   24 Hour Events:
   Agitated overnight, attempted to self-extubate twice
   Sedation increased, NIF on sedation - 16
   TFs restarted
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-4**] 01:20 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Hydralazine - [**2122-4-5**] 06:04 AM
   Lansoprazole (Prevacid) - [**2122-4-5**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-5**] 08:09 AM
   Other medications:
   verapamil help, celexa, solumedrol 80mg daily, Mestinon, hydralazine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-5**] 12:20 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 81 (58 - 83) bpm
   BP: 170/87(95) {113/55(72) - 177/93(109)} mmHg
   RR: 18 (14 - 18) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.9 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,080 mL
                                                                  1,387 mL
   PO:
             TF:
                                                                    114 mL
                                                                    309 mL
   IVF:
                                                                    776 mL
                                                                    878 mL
   Blood products:
   Total out:
                                                                    490 mL
                                                                    553 mL
   Urine:
                                                                    490 mL
                                                                    363 mL
   NG:
   190 mL
   Stool:
   Drains:
   Balance:
                                                                    590 mL
                                                                    834 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 51
   PIP: 28 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.43/54/169/34/10
   Ve: 9.2 L/min
   PaO2 / FiO2: 338
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed, Arousable but somnolent
   Labs / Radiology
   8.9 g/dL
   162 K/uL
   100 mg/dL
   0.7 mg/dL
   34 mEq/L
   4.0 mEq/L
   16 mg/dL
   98 mEq/L
   136 mEq/L
   25.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2122-4-1**]  06:48 AM
                             [**2122-4-1**]  10:26 PM
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
                             [**2122-4-5**]  01:10 AM
                             [**2122-4-5**]  03:32 AM
   WBC
   9.9
   10.9
   9.9
   6.1
   Hct
   30.7
   28.8
   29.5
   25.8
   Plt
   188
   190
   197
   162
   Cr
   1.0
   0.8
   0.8
   0.7
   TCO2
   32
   33
   35
   38
   37
   37
   Glucose
   109
   82
   112
   100
   Other labs: PT / PTT / INR:12.9/32.8/1.1, Differential-Neuts:93.0 %,
   Lymph:5.0 %, Mono:1.5 %, Eos:0.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   65 yo female with h/o MG s/p AAA repair and now with worsening weakness
   had need for intubation transiently in the setting of increased
   secretions, now reintubated for fatigue/hypercapnia.  NIFs have varied,
    decreased this morning in the setting of sedation.
    1)Respiratory Failure-
   - keep intubated for now, needs sedation for anxiety and discomfort
   - Daily NIFs
   2)Myasthenia [**Last Name (un) 249**]-
   -Pheresis to continue next week for at least 2 additional sessions
   -Continue mestinon per neurology
   3)Cardiac-
   - HTN, will continue with Verapamil and hydralazine (increased) with
   goal to keep BP stable given AAA history
   4) urinary tract infection
   -CTX day 3 to continue given minimal impact on MG
   - f/u urine cx
   5) PT
 would consider getting patient out of bed to chair tomorrow
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2122-4-4**] 03:29 PM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Need for restraints reviewed
   Comments:
   Communication: ICU consent signed Comments: daughter/husband to be
   updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 33 minutes
   Patient is critically ill

2122-04-06 06:54:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hydral uptitrated and Enalapril started for BP into 170s systolic
   - Hct stable at 26
   - Neuro recs: continue meds at current dosage. Plasmapheresis tomorrow
   amd 1 more time (total 5 treatments).
   - Completed 3 days of Ceftriaxone for UTI.
   - NIF -35 then -21
   - **likely extubate in AM and call out in the evening**
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-4**] 01:20 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-4-5**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2122-4-5**] 11:00 PM
   Hydralazine - [**2122-4-5**] 11:00 PM
   Fentanyl - [**2122-4-5**] 11:00 PM
   Midazolam (Versed) - [**2122-4-5**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-6**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.9
C (100.2
   HR: 83 (60 - 94) bpm
   BP: 154/70(92) {107/52(62) - 178/93(109)} mmHg
   RR: 19 (18 - 20) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.9 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,417 mL
                                                                    718 mL
   PO:
             TF:
                                                                    651 mL
                                                                    234 mL
   IVF:
                                                                  1,245 mL
                                                                    194 mL
   Blood products:
   Total out:
                                                                    943 mL
                                                                    185 mL
   Urine:
                                                                    723 mL
                                                                    185 mL
   NG:
                                                                    220 mL
   Stool:
   Drains:
   Balance:
                                                                  1,474 mL
                                                                    533 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 410 (410 - 410) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 24
   PIP: 25 cmH2O
   Plateau: 13 cmH2O
   SpO2: 100%
   ABG: ///34/
   NIF: -17 cmH2O
   Ve: 9.9 L/min
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Labs / Radiology
   181 K/uL
   8.2 g/dL
   113 mg/dL
   0.8 mg/dL
   34 mEq/L
   4.1 mEq/L
   16 mg/dL
   98 mEq/L
   136 mEq/L
   24.8 %
   6.0 K/uL
        [image002.jpg]
                             [**2122-4-2**]  03:06 AM
                             [**2122-4-3**]  02:24 AM
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
                             [**2122-4-5**]  01:10 AM
                             [**2122-4-5**]  03:32 AM
                             [**2122-4-5**]  04:55 PM
                             [**2122-4-6**]  03:08 AM
   WBC
   9.9
   10.9
   9.9
   6.1
   7.6
   6.0
   Hct
   30.7
   28.8
   29.5
   25.8
   25.8
   24.8
   Plt
   188
   190
   197
   162
   179
   181
   Cr
   1.0
   0.8
   0.8
   0.7
   0.8
   TCO2
   35
   38
   37
   37
   Glucose
   109
   82
   112
   100
   113
   Other labs: PT / PTT / INR:13.1/32.8/1.1, Differential-Neuts:74.9 %,
   Lymph:17.9 %, Mono:6.0 %, Eos:1.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.5
   mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort. Requiring high amounts of sedation to keep
   patient calm (otherwise pt starts pulling on the tubes,etc) but can
   become too sedated for NIF checks.  Neurology following.
   - Cont ventilator support until strength improves, wean as tolerated
   - PS trial today
   - Neurology recs: Cont plasmapheresis (2 more pheresis runs, plan for
   pheresis today) per Neuro. Cont to f/u further recs for
   mestinon/steroid dose.
   - Follow qd VC/NIF checks
   - Hold on PT exercises for now until stronger
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - will change Dig to QOD dosing .
   - follow Dig level
   - Hold Verapamilmetoprolol due to MG flare
   .
   #. Hypertension.
   - Cont enalapril and hyrdalazine, titrate as needed
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures pending.
   - s/p Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can
   worsen MG)
   - F/U Urine culture
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Had a 4-point Hct drop this AM. Will recheck this afternoon.
   No obvious signs of GIB but not stooling at this time. Will check
   guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following.
   - f/u recs regarding staple removal, post-op care
   .
   #. Myasthenia [**Last Name (un) 249**]
   - CT surgery evaluating patient for future need for thymectomy
   .
   FEN: TF while intubated, will place on bowel regimen.
   PPX: SC heparin, PPI (change to lansoprazole while intubated)
   COMM: with husband and daughter
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-07 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Vascular [**Doctor First Name **] changed pheresis line, staples d/c, recs CT Chest per
   thoracic surgery
   - digoxin changed to QOD dosing
   - will plan to do CT chest for CT [**Doctor First Name 213**] thymus eval on [**4-7**]
   - pheresis performed, plan for one more pheresis on [**4-8**]
   - plan qd NIF/VC checks.  tolerated 30min SBT well
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Ceftriaxone - [**2122-4-4**] 01:20 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-4-6**] 08:06 AM
   Hydralazine - [**2122-4-6**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2122-4-6**] 02:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-7**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36
C (96.8
   HR: 66 (51 - 88) bpm
   BP: 111/56(69) {102/46(60) - 140/73(86)} mmHg
   RR: 14 (14 - 19) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 79.9 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  2,386 mL
                                                                    423 mL
   PO:
             TF:
                                                                    960 mL
                                                                    270 mL
   IVF:
                                                                    656 mL
                                                                    152 mL
   Blood products:
   Total out:
                                                                  1,030 mL
                                                                    150 mL
   Urine:
                                                                  1,030 mL
                                                                    150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,356 mL
                                                                    273 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 490 (490 - 490) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 38
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.42/52/120/36/8
   NIF: -17 cmH2O
   Ve: 10.1 L/min
   PaO2 / FiO2: 300
   Physical Examination
   GEN: Weak appearing. Uncomfortable-appearing.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   179 K/uL
   8.3 g/dL
   104 mg/dL
   0.7 mg/dL
   36 mEq/L
   3.7 mEq/L
   14 mg/dL
   99 mEq/L
   138 mEq/L
   25.1 %
   6.7 K/uL
        [image002.jpg]
                             [**2122-4-3**]  02:34 PM
                             [**2122-4-4**]  12:22 AM
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
                             [**2122-4-5**]  01:10 AM
                             [**2122-4-5**]  03:32 AM
                             [**2122-4-5**]  04:55 PM
                             [**2122-4-6**]  03:08 AM
                             [**2122-4-6**]  04:14 PM
                             [**2122-4-7**]  03:34 AM
   WBC
   9.9
   6.1
   7.6
   6.0
   6.7
   Hct
   29.5
   25.8
   25.8
   24.8
   25.1
   Plt
   197
   162
   179
   181
   179
   Cr
   0.8
   0.7
   0.8
   0.7
   TCO2
   35
   38
   37
   37
   35
   Glucose
   112
   100
   113
   104
   Other labs: PT / PTT / INR:14.4/50.5/1.3, Differential-Neuts:74.7 %,
   Lymph:15.3 %, Mono:7.4 %, Eos:2.4 %, Lactic Acid:0.6 mmol/L, Ca++:8.5
   mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort. Requiring high amounts of sedation to keep
   patient calm (otherwise pt starts pulling on the tubes,etc) but can
   become too sedated for NIF checks.  Neurology following.
   - Cont ventilator support until strength improves, wean as tolerated
   - PS trial today
   - Neurology recs: Cont plasmapheresis (2 more pheresis runs, plan for
   pheresis today) per Neuro. Cont to f/u further recs for
   mestinon/steroid dose.
   - Follow qd VC/NIF checks
   - Hold on PT exercises for now until stronger
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - will change Dig to QOD dosing .
   - follow Dig level
   - Hold Verapamilmetoprolol due to MG flare
   .
   #. Hypertension.
   - Cont enalapril and hyrdalazine, titrate as needed
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures pending.
   - s/p Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can
   worsen MG)
   - F/U Urine culture
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Had a 4-point Hct drop this AM. Will recheck this afternoon.
   No obvious signs of GIB but not stooling at this time. Will check
   guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following.
   - f/u recs regarding staple removal, post-op care
   .
   #. Myasthenia [**Last Name (un) 249**]
   - CT surgery evaluating patient for future need for thymectomy
   .
   FEN: TF while intubated, will place on bowel regimen.
   PPX: SC heparin, PPI (change to lansoprazole while intubated)
   COMM: with husband and daughter
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-08 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Patient traveled for CT neck and chest without incident
   - Was started on furosemide 10 mg IV PRN and acetazolamide 500 mg TID
   with good effect, having ~ 1000 mL diuresis after first furosemide dose
   - Neurology and pharmacy consulted regarding diuretic use and reported
   no specific concerns as long as hypokalemia avoided
   - During night shift, right groin surgical incision noted to have
   superior aspect superficial hematoma and blood ooze with pressure
   applied, abdomen soft, non-tender, area of induration around hematoma
   was marked to follow size
   - Morning Hydral held due to SBP in the 90s
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-7**] 10:00 PM
   Furosemide (Lasix) - [**2122-4-7**] 10:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-8**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 56 (56 - 88) bpm
   BP: 96/51(61) {85/47(56) - 154/82(102)} mmHg
   RR: 18 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.4 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,794 mL
                                                                    490 mL
   PO:
             TF:
                                                                    964 mL
                                                                    271 mL
   IVF:
                                                                    600 mL
                                                                    169 mL
   Blood products:
   Total out:
                                                                  2,515 mL
                                                                  1,080 mL
   Urine:
                                                                  2,515 mL
                                                                  1,080 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -721 mL
                                                                   -590 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (420 - 470) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 22 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: ///35/
   NIF: -24 cmH2O
   Ve: 9.6 L/min
   Physical Examination
   GEN: Awake and responsive.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   8.5 g/dL
   107 mg/dL
   0.8 mg/dL
   35 mEq/L
   3.6 mEq/L
   14 mg/dL
   97 mEq/L
   135 mEq/L
   26.3 %
   7.1 K/uL
        [image002.jpg]
                             [**2122-4-4**]  01:59 AM
                             [**2122-4-4**]  04:02 AM
                             [**2122-4-5**]  01:10 AM
                             [**2122-4-5**]  03:32 AM
                             [**2122-4-5**]  04:55 PM
                             [**2122-4-6**]  03:08 AM
                             [**2122-4-6**]  04:14 PM
                             [**2122-4-7**]  03:34 AM
                             [**2122-4-7**]  03:01 PM
                             [**2122-4-8**]  03:28 AM
   WBC
   9.9
   6.1
   7.6
   6.0
   6.7
   7.1
   Hct
   29.5
   25.8
   25.8
   24.8
   25.1
   26.3
   Plt
   197
   162
   179
   181
   179
   219
   Cr
   0.8
   0.7
   0.8
   0.7
   0.7
   0.8
   TCO2
   37
   37
   35
   Glucose
   112
   100
   113
   104
   188
   107
   Other labs: PT / PTT / INR:12.8/31.6/1.1, Differential-Neuts:73.3 %,
   Lymph:17.6 %, Mono:6.5 %, Eos:2.3 %, Lactic Acid:0.6 mmol/L, Ca++:8.7
   mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort.  Neurology following.  Receiving
   plasmapheresis.
   - Cont ventilator support until strength improves, wean as tolerated
   - start to wean sedation in anticipation of possible extubation
   tomorrow once plasmapheresis treatment course completed today.  Will
   wean to prn doses of fentanyl and versed.
   - PS trial today
   - Neurology recs: Cont plasmapheresis last run today per Neuro. Cont to
   f/u further recs for mestinon/steroid dose.
   - cont Lasix on prn dosing for fluid removal in anticipation of
   possible extubation once plasmapheresis treatments completed, good
   response yesterday to lasix x2 doses.
   - Follow qd VC/NIF checks
   - Hold on PT exercises for now until stronger
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Cont Dig at daily dosing.
   - follow Dig level
   - Hold Verapamilmetoprolol due to MG flare
   .
   #. Hypertension.
   - cont captopril, will d/c hydralazine.  Good BP control.
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures c/w fecal contamination,
   treated with ceftriaxone.
   - s/p Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can
   worsen MG)
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.  Now on diuretic therapy., goal K+ 4-4.5
   - started on acetazolamide on [**4-7**]
   - will watch K+ level with diuresis and diamox therapy.
   - Cont maintenance IVF as patient not taking good POs.
   .
   #. Anemia. Had 4pt drop three days ago, now stable. No obvious signs of
   GIB but not stooling at this time. Will check guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following.  New
   occurance of wound hematoma,  no intervention at this time
   - cont to monitor wound hematoma for enlargement and infection
   - will measure fibrinogen and plan cryoprecipitate if level low
   - f/u recs, staples removed, post-op care
   .
   #. Myasthenia [**Last Name (un) 249**]
   - f/u neuro recs
   - aggressively replete K, goal 4-4.5
   - CT surgery evaluating patient for future need for thymectomy,  CT
   Chest scan yesterday without events.
   - CT chest sig for no thymoma, bilateral pl effusions.
   .
   FEN: TF while intubated, colace, lactulose, dulcolax
   PPX: SC heparin, PPI lansoprazole
   COMM: with husband and daughter
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2122-4-7**] 07:03 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-09 07:00:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started Ancef per vascular for concern of seeding hardware, plan to
   continue until groin wound heals
   - NIF on [**2122-4-8**]: -30
   - transitioned to bolus sedation
   - changed antihypertensives to captopril alone
   Allergies:
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Respiratory support
   Physical Examination
   Labs / Radiology
        [image002.jpg]
   WBC
   Hct
   Plt
   Cr
   TropT
   TCO2
   Glucose
   Imaging:
   Microbiology:
   ECG:
   Assessment and Plan
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Communication:  Comments:
   Code status:
   Disposition:

2122-04-09 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - started Ancef per vascular for concern of seeding hardware, plan to
   continue until groin wound heals
   - NIF on [**2122-4-8**]: -30
   - transitioned to bolus sedation
   - changed antihypertensives to captopril alone
   - last plasmapheresis run, tolerated well
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Cefazolin - [**2122-4-9**] 02:04 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2122-4-8**] 01:00 PM
   Midazolam (Versed) - [**2122-4-8**] 09:12 PM
   Fentanyl - [**2122-4-8**] 09:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-9**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.2
C (99
   HR: 84 (55 - 143) bpm
   BP: 159/79(97) {90/54(65) - 179/98(112)} mmHg
   RR: 25 (9 - 32) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.4 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,646 mL
                                                                    349 mL
   PO:
             TF:
                                                                    965 mL
                                                                     82 mL
   IVF:
                                                                    347 mL
                                                                    127 mL
   Blood products:
   Total out:
                                                                  3,510 mL
                                                                    540 mL
   Urine:
                                                                  3,510 mL
                                                                    540 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,864 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 470 (404 - 470) mL
   PS : 8 cmH2O
   RR (Set): 18
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 68
   PIP: 14 cmH2O
   Plateau: 15 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 96%
   ABG: 7.38/56/81.[**Numeric Identifier 218**]/31/5
   NIF: -30 cmH2O
   Ve: 10 L/min
   PaO2 / FiO2: 203
   Physical Examination
   GEN: Awake and responsive.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   252 K/uL
   8.5 g/dL
   98 mg/dL
   0.9 mg/dL
   31 mEq/L
   4.5 mEq/L
   17 mg/dL
   98 mEq/L
   137 mEq/L
   25.6 %
   10.8 K/uL
        [image002.jpg]
                             [**2122-4-5**]  03:32 AM
                             [**2122-4-5**]  04:55 PM
                             [**2122-4-6**]  03:08 AM
                             [**2122-4-6**]  04:14 PM
                             [**2122-4-7**]  03:34 AM
                             [**2122-4-7**]  03:01 PM
                             [**2122-4-8**]  03:28 AM
                             [**2122-4-8**]  03:24 PM
                             [**2122-4-8**]  03:57 PM
                             [**2122-4-9**]  03:30 AM
   WBC
   6.1
   7.6
   6.0
   6.7
   7.1
   10.8
   Hct
   25.8
   25.8
   24.8
   25.1
   26.3
   25.6
   Plt
   162
   179
   181
   179
   219
   252
   Cr
   0.7
   0.8
   0.7
   0.7
   0.8
   0.9
   0.9
   TCO2
   35
   34
   Glucose
   100
   113
   104
   188
   107
   212
   98
   Other labs: PT / PTT / INR:12.8/31.6/1.1, Differential-Neuts:73.3 %,
   Lymph:17.6 %, Mono:6.5 %, Eos:2.3 %, Fibrinogen:122 mg/dL, Lactic
   Acid:0.6 mmol/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort.  Neurology following.  Receiving
   plasmapheresis, last plasmapheresis treatment [**5-12**] on [**4-8**].
   - Pressure support trial today, expect extubation today
   - cont bolus sedation
   - Neurology recs: Cont plasmapheresis last run today per Neuro. Cont to
   f/u further recs for mestinon/steroid dose.
   - cont Lasix on prn dosing for fluid removal in anticipation of
   extubation
   - Follow qd VC/NIF checks
   - Hold on PT exercises for now until stronger
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Cont Dig at daily dosing.
   - follow Dig level
   - Hold Verapamil and metoprolol due to MG flare
   .
   #. Hypertension. Well controlled
   - cont captopril
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures c/w fecal contamination,
   treated with ceftriaxone.
   - s/p Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can
   worsen MG)
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.  Now on diuretic therapy., goal K+ 4-4.5
   - started on acetazolamide on [**4-7**]
   - will watch K+ level with diuresis and diamox therapy.
   - consider d/c diamox at this point
   - PM lytes
   - Cont maintenance IVF as patient not taking good POs.
   - will place feeding tube
   .
   #. Anemia. Had 4pt drop three days ago, now stable. No obvious signs of
   GIB but not stooling at this time. Will check guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following.  New
   occurance of wound hematoma,  no intervention at this time
   - cont to monitor wound hematoma for enlargement and infection
   - cont ancef per vascular recs for mild wound separation
   - will measure fibrinogen and plan cryoprecipitate if level low
   - f/u recs, staples removed, post-op care
   .
   #. Myasthenia [**Last Name (un) 249**]
   - f/u neuro recs
   - aggressively replete K, goal 4-4.5
   - CT surgery evaluating patient for future need for thymectomy,  CT
   Chest scan yesterday without events.
   - CT chest sig for no thymoma, bilateral pl effusions.
   - will place feeding tube in case bulbar weakness precludes feeding
   once extubated.
   .
   FEN: TF while intubated (on hold this AM for extubation), colace,
   lactulose, dulcolax
   PPX: SC heparin, PPI lansoprazole
   COMM: with husband and daughter
   FULL CODE
   DISPO: ICU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:   will plan on PICC line tomorrow for access once extubated.
   Once PICC place, will take out pheresis line
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   18 Gauge - [**2122-4-4**] 02:14 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-10 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2122-4-9**] 04:51 PM
   - Vascular [**Doctor First Name 213**] rec no change for now, cont ancef
   - Neuro recs no change in current medications, anticipate extubation
   - NGT placed
   - Lasix 10mg iv x1 given in AM
   - d/c diamox
   - extubated in PM, put on BIPAP 10/10 overnight, NIF post-extub -22
   overnight due to increased WOB
   - plan IR PICC in AM, will d/c pheresis catheter after PICC placed.
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Cefazolin - [**2122-4-10**] 03:14 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2122-4-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-10**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.1
C (97
   HR: 85 (83 - 119) bpm
   BP: 145/66(88) {107/55(68) - 192/91(115)} mmHg
   RR: 25 (19 - 34) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.4 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                    674 mL
                                                                    208 mL
   PO:
             TF:
                                                                     82 mL
   IVF:
                                                                    212 mL
                                                                    118 mL
   Blood products:
   Total out:
                                                                  2,730 mL
                                                                    245 mL
   Urine:
                                                                  2,730 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,056 mL
                                                                    -37 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 511 (348 - 511) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.36/56/234/30/4
   NIF: -30 cmH2O
   Ve: 7.9 L/min
   PaO2 / FiO2: 585
   Physical Examination
   GEN: Awake and responsive.  Intubated
   HEENT: Pupils 4mm-->2mm bilaterally.  No icterus or pallor. ETT intact
   CV: Regular. No murmurs.
   PULM: Clear though effort poor.
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: Intubated and sedated
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   275 K/uL
   8.7 g/dL
   114 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.8 mEq/L
   17 mg/dL
   98 mEq/L
   138 mEq/L
   26.3 %
   13.8 K/uL
        [image002.jpg]
                             [**2122-4-7**]  03:34 AM
                             [**2122-4-7**]  03:01 PM
                             [**2122-4-8**]  03:28 AM
                             [**2122-4-8**]  03:24 PM
                             [**2122-4-8**]  03:57 PM
                             [**2122-4-9**]  03:30 AM
                             [**2122-4-9**]  10:57 AM
                             [**2122-4-9**]  04:14 PM
                             [**2122-4-10**]  01:52 AM
                             [**2122-4-10**]  01:56 AM
   WBC
   6.7
   7.1
   10.8
   13.8
   Hct
   25.1
   26.3
   25.6
   26.3
   Plt
   179
   219
   252
   275
   Cr
   0.7
   0.7
   0.8
   0.9
   0.9
   0.9
   0.8
   TCO2
   34
   34
   33
   Glucose
   104
   188
   107
   212
   98
   180
   114
   Other labs: PT / PTT / INR:12.8/31.6/1.1, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.3 %, Lymph:17.6 %, Mono:6.5 %, Eos:2.3 %,
   Fibrinogen:122 mg/dL, Lactic Acid:0.5 mmol/L, LDH:118 IU/L, Ca++:9.1
   mg/dL, Mg++:2.0 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2
   #. Respiratory failure [**2-9**] myasthenia flare. Likely related to
   post-operative state. Extubated [**4-2**]. NIF -25 and increasing PCO2
   requiring reintubation. Has been difficult to balance sedation vs
   agitation and discomfort.  Neurology following.  Receiving
   plasmapheresis, last plasmapheresis treatment [**5-12**] on [**4-8**].
   - Pressure support trial today, expect extubation today
   - cont bolus sedation
   - Neurology recs: Cont plasmapheresis last run today per Neuro. Cont to
   f/u further recs for mestinon/steroid dose.
   - cont Lasix on prn dosing for fluid removal in anticipation of
   extubation
   - Follow qd VC/NIF checks
   - Hold on PT exercises for now until stronger
   .
   #. Atrial fibrillation. Has history of afib; not on anticoagulation
   - Cont Dig at daily dosing.
   - follow Dig level
   - Hold Verapamil and metoprolol due to MG flare
   .
   #. Hypertension. Well controlled
   - cont captopril
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   .
   #. UTI
 U/A indicative of infection. Cultures c/w fecal contamination,
   treated with ceftriaxone.
   - s/p Ceftriaxone for 3 day (D1 [**4-3**]) course per neuro (cipro can
   worsen MG)
   .
   #. Electrolyte abnormalities. Met alk and hypernatremia improved w/
   IVF.  Now on diuretic therapy., goal K+ 4-4.5
   - started on acetazolamide on [**4-7**]
   - will watch K+ level with diuresis and diamox therapy.
   - consider d/c diamox at this point
   - PM lytes
   - Cont maintenance IVF as patient not taking good POs.
   - will place feeding tube
   .
   #. Anemia. Had 4pt drop three days ago, now stable. No obvious signs of
   GIB but not stooling at this time. Will check guaiac once pt has a BM.
   .
   #. AAA repair. Successful repair. Vascular surgery following.  New
   occurance of wound hematoma,  no intervention at this time
   - cont to monitor wound hematoma for enlargement and infection
   - cont ancef per vascular recs for mild wound separation
   - will measure fibrinogen and plan cryoprecipitate if level low
   - f/u recs, staples removed, post-op care
   .
   #. Myasthenia [**Last Name (un) 249**]
   - f/u neuro recs
   - aggressively replete K, goal 4-4.5
   - CT surgery evaluating patient for future need for thymectomy,  CT
   Chest scan yesterday without events.
   - CT chest sig for no thymoma, bilateral pl effusions.
   - will place feeding tube in case bulbar weakness precludes feeding
   once extubated.
   ICU Care
   Nutrition:  Nutren 2.0 Full strength; Additives: Beneprotein, 25 gm/day
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication: with husband and daughter
   [**Name (NI) 36**] status: FULL CODE
   Disposition: ICU for now

2122-04-11 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Reduced FiO2 during the day
   - Vascular surgery with no change in current management, will ask to
   D/C pheresis line morning of [**4-11**] and send tip for culture
   - Neurology with concern of impending need for reintubation and
   discussed this concern with MICU team
 PICC LINE - START [**2122-4-10**] 12:51 PM
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Cefazolin - [**2122-4-10**] 06:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-11**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 84 (79 - 101) bpm
   BP: 168/60(88) {135/59(82) - 190/125(130)} mmHg
   RR: 29 (20 - 32) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.4 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  1,171 mL
                                                                    403 mL
   PO:
             TF:
                                                                    401 mL
                                                                    275 mL
   IVF:
                                                                    390 mL
                                                                     69 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    370 mL
   Urine:
                                                                  1,505 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -334 mL
                                                                     33 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 100%
   ABG: 7.39/54/70/30/5
   NIF: -30 cmH2O
   PaO2 / FiO2: 175
   Physical Examination
   GEN: Awake and responsive.
   HEENT: Pupils equal and reactive bilaterally.  No icterus or pallor.
   Wearing face tent.
   CV: Regular, no murmurs.
   PULM: Clear with moderate air movement and abdominal and SCM
   compensation of respirations
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: A&Ox3, following commands, breathing spontaneously
   Labs / Radiology
   257 K/uL
   8.3 g/dL
   113 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.5 mEq/L
   17 mg/dL
   99 mEq/L
   136 mEq/L
   24.3 %
   9.5 K/uL
        [image002.jpg]
                             [**2122-4-8**]  03:28 AM
                             [**2122-4-8**]  03:24 PM
                             [**2122-4-8**]  03:57 PM
                             [**2122-4-9**]  03:30 AM
                             [**2122-4-9**]  10:57 AM
                             [**2122-4-9**]  04:14 PM
                             [**2122-4-10**]  01:52 AM
                             [**2122-4-10**]  01:56 AM
                             [**2122-4-11**]  12:43 AM
                             [**2122-4-11**]  02:45 AM
   WBC
   7.1
   10.8
   13.8
   9.5
   Hct
   26.3
   25.6
   26.3
   24.3
   Plt
   [**Telephone/Fax (3) 6766**]57
   Cr
   0.8
   0.9
   0.9
   0.9
   0.8
   0.8
   TCO2
   34
   34
   33
   34
   Glucose
   107
   212
   98
   180
   114
   113
   Other labs: PT / PTT / INR:12.8/31.6/1.1, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.3 %, Lymph:17.6 %, Mono:6.5 %, Eos:2.3 %,
   Fibrinogen:122 mg/dL, Lactic Acid:0.5 mmol/L, LDH:118 IU/L, Ca++:9.4
   mg/dL, Mg++:1.7 mg/dL, PO4:1.7 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flair requiring intubation x 2. Is currently extubated and
   was on BiPAP overnight.
   #. Respiratory failure [**2-9**] myasthenia flare:
   Likely related to post-operative state. Received plasmapheresis
   treatment [**5-12**] on [**4-8**]. Extubated on [**2122-4-9**] and had some increased work
   of breathing and post-extubation NIF of -22; however, did well after
   being rested on BiPAP overnight.
   - Neurology would like to continue mestinon/steroid dose at this time.
   - Cont furosemide on prn dosing for fluid removal to help decrease work
   of breathing
   - Follow qd VC/NIF checks
   - PT
   - consider BiPAP at night as needed
   - speech and swallow consult
   #. Atrial fibrillation:
   Has history of afib; not on anticoagulation.
   - Cont Dig at daily dosing.
   - Follow Dig level
   - Hold Verapamil and metoprolol due to MG flare
   #. Hypertension:
   Well controlled
   - Cont captopril
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   - will use PRN hydralazine
   #. Electrolyte abnormalities:
   Met alk and hypernatremia improved w/ IVF.  Now on diuretic therapy.,
   goal K+ 4-4.5
   - Will watch K+ level with diuresis
   #. Anemia:
   Stable. Will monitor stools for occult blood.
   #. AAA repair:
   Successful repair. Vascular surgery following.  New occurance of wound
   hematoma 3 nights ago, no intervention at this time. No expansion of
   hematoma or further opening of wound today.
   - Cont to monitor wound hematoma for enlargement and infection
   - Cont Ancef per vascular recs for mild wound separation
   #. Myasthenia [**Last Name (un) 249**]
   - F/U neuro recs
   - Continue to aggressively replete K, goal 4-4.5
   - Future thymectomy eval by thoracic surgery is ongoing
   - Feeding tube is placed in case patient
s swallowing is impaired by
   motor weakness
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2122-4-10**] 09:00 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Pheresis Catheter - [**2122-4-1**] 01:10 AM
   PICC Line - [**2122-4-10**] 12:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2122-04-12 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Increased Captopril to 50mg TID then again to 75mg TID, and used IV
   hydralazine PRN for SBP in the 190's
   - able to tolerate clears
   - formal speech and swallow assessment planned (likely on monday)
 PHERESIS CATHETER - STOP [**2122-4-11**] 12:30 PM
   Allergies:
   Erythromycin Base
   increased infec
   Last dose of Antibiotics:
   Cefazolin - [**2122-4-12**] 02:34 AM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2122-4-11**] 08:00 AM
   Metoprolol - [**2122-4-11**] 04:10 PM
   Heparin Sodium (Prophylaxis) - [**2122-4-11**] 09:33 PM
   Hydralazine - [**2122-4-12**] 06:11 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2122-4-12**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.3
C (99.2
   HR: 94 (84 - 159) bpm
   BP: 158/76(93) {146/64(93) - 199/103(173)} mmHg
   RR: 27 (18 - 30) insp/min
   SpO2: 94%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 81.4 kg (admission): 75 kg
   Height: 69 Inch
             Total In:
                                                                  3,047 mL
                                                                    393 mL
   PO:
                                                                    600 mL
             TF:
                                                                  1,027 mL
                                                                    295 mL
   IVF:
                                                                    810 mL
                                                                     98 mL
   Blood products:
   Total out:
                                                                  1,935 mL
                                                                    575 mL
   Urine:
                                                                  1,935 mL
                                                                    575 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,112 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: Face tent
   SpO2: 94%
   ABG: ///29/
   NIF: -40 cmH2O
   Physical Examination
   GEN: Awake and responsive.
   HEENT: Pupils equal and reactive bilaterally.  No icterus or pallor.
   Wearing face tent.
   CV: Regular, no murmurs.
   PULM: Clear with moderate air movement and abdominal and SCM
   compensation of respirations
   ABD: Soft. Non-tender.
   EXT: Warm. Lower extremity varicosities.
   NEURO: A&Ox3, following commands, breathing spontaneously, speaking in
   short sentences, tires easily but has 3+/5 strength in all extremities
   Labs / Radiology
   237 K/uL
   8.7 g/dL
   121 mg/dL
   0.7 mg/dL
   29 mEq/L
   3.7 mEq/L
   17 mg/dL
   99 mEq/L
   134 mEq/L
   25.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2122-4-8**]  03:24 PM
                             [**2122-4-8**]  03:57 PM
                             [**2122-4-9**]  03:30 AM
                             [**2122-4-9**]  10:57 AM
                             [**2122-4-9**]  04:14 PM
                             [**2122-4-10**]  01:52 AM
                             [**2122-4-10**]  01:56 AM
                             [**2122-4-11**]  12:43 AM
                             [**2122-4-11**]  02:45 AM
                             [**2122-4-12**]  02:40 AM
   WBC
   10.8
   13.8
   9.5
   8.4
   Hct
   25.6
   26.3
   24.3
   25.9
   Plt
   [**Telephone/Fax (3) 6778**]37
   Cr
   0.9
   0.9
   0.9
   0.8
   0.8
   0.7
   TCO2
   34
   34
   33
   34
   Glucose
   [**Telephone/Fax (2) 6779**]4
   113
   121
   Other labs: PT / PTT / INR:15.6/31.8/1.4, Alk Phos / T Bili:/0.2,
   Differential-Neuts:73.3 %, Lymph:17.6 %, Mono:6.5 %, Eos:2.3 %,
   Fibrinogen:122 mg/dL, Lactic Acid:0.5 mmol/L, LDH:118 IU/L, Ca++:9.4
   mg/dL, Mg++:1.7 mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   65F with history of MG, admitted for AAA repair, now with worsening
   myasthenia flare requiring intubation x 2. Is currently extubated and
   was on BiPAP overnight.
   #. Respiratory failure [**2-9**] myasthenia flare:
   Likely related to post-operative state. Received plasmapheresis
   treatment [**5-12**] on [**4-8**]. Extubated on [**2122-4-9**] and had some increased work
   of breathing and post-extubation NIF of -22; however, did well since
   and this morning had NIF of -50..
   - Neurology would like to continue mestinon/steroid dose at this time.
   - Cont furosemide on prn dosing for fluid removal to help decrease work
   of breathing
   - Follow qd VC/NIF checks
   - PT
   - consider BiPAP at night as needed
   - speech and swallow consult
   #. Atrial fibrillation:
   Has history of afib; not on anticoagulation.
   - Cont Dig at daily dosing.
   - Follow Dig level
   - Hold Verapamil and metoprolol due to MG flare
   #. Hypertension:
   Yesterday had elevated BP and Captopril was increased.
   - Plan to switch to Lisinopril qdaily dosing
   - Using hydralazine PRN currently however would d/w neuro regarding
   appropriate second [**Doctor Last Name **] to add (her MG flare is resolving)
   - Hold verapamil as above. Holding metoprolol during MG flare (can
   exacerbate MG).
   #. Electrolyte abnormalities:
   Met alk and hypernatremia improved w/ IVF.  Now on intermittent
   diuretic therapy., goal K+ 4-4.5
   - Will watch K+ level with diuresis
   #. Anemia:
   Stable. Will monitor stools for occult blood.
   #. AAA repair:
   Successful repair. Vascular surgery following.  New occurance of wound
   hematoma 3 nights ago, no intervention at this time. No expansion of
   hematoma or further opening of wound today.
   - Cont to monitor wound hematoma for enlargement and infection
   - Cont Ancef per vascular recs for mild wound separation
   #. Myasthenia [**Last Name (un) 249**]
   - F/U neuro recs
   - Continue to aggressively replete K, goal 4-4.5
   - Future thymectomy eval by thoracic surgery is ongoing
   - Feeding tube is placed in case patient
s swallowing is impaired by
   motor weakness
   - Patient was able to tolerate clear, plan to give her thickened
   liquids today until Speech and Swallow can formally evaluate.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2122-4-11**] 09:02 PM 40 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2122-4-10**] 12:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: